US07585885B2
2-Acetyl-(S)-6-sec-butylamino-isonicotinic acid methyl ester
Dissolve 2-acetyl-6-chloro-isonicotinic acid methyl ester (300 mg, 1.4 mmol), palladium (II) acetate (16 mg, 0.07 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (46 mg, 0.07 mmol) and cesium carbonate (781 mg, 2.1 mmol) in anhydrous toluene (3 mL) in a previously degassed sealed vessel. Flush the mixture with nitrogen gas. Add (S)-(+)-sec-butylamine (0.16 mL, 1.68 mmol) to the solution under nitrogen and heat the sealed mixture overnight at 100° C. Cool the reaction to room temperature. Dilute with diethyl ether and filter through a filtering agent. Concentrate the filtrate and purify (silica gel chromatography, eluting with 0:100 to 5:95 ethyl acetate:hexanes) to give the title compound as a solid (17%).

reactant | 2-acetyl-6-chloro-isonicotinic acid methyl ester | 1.4 mmol, 300 mg | COC(C1=CC(=NC(=C1)Cl)C(C)=O)=O | C9H8ClNO3
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.07 mmol, 46 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 2.1 mmol, 781 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-(+)-sec-butylamine | 1.68 mmol, 0.16 mL | [C@H](C)(CC)N | C4H11N
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | palladium (II) acetate | 0.07 mmol, 16 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Acetyl-(S)-6-sec-butylamino-isonicotinic acid methyl ester | 17% | COC(C1=CC(=NC(=C1)N[C@@H](C)CC)C(C)=O)=O | C13H18N2O3
